US05051422
4-(2-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide
In a manner similar to Preparation 1, react N-(2-methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine (15.4 g, 60.2 mmol) with 2,3-dibromopropanamide (27.7 g, 0.12 mol) to give the title compound.

reactant | N-(2-methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine | 60.2 mmol, 15.4 g | COC1=C(C=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2O
reactant | 2,3-dibromopropanamide | 0.12 mol, 27.7 g | BrC(C(=O)N)CBr | C3H5Br2NO
product | 4-(2-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | COC1=C(C=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C19H23N3O2
